US05280026
2,4-Bis(N-methylphenylamino)thieno(2,3-d)pyrimidine
2,4-Dichlorothieno[2,3-d]pyrimidine (2 g, 0.00975 mol) and N-methylaniline (5 ml) were heated in an oil bath at 150° for 2 hours. The reaction mixture was dissolved in chloroform (200 ml) and extracted with 2N hydrochloric acid (3×100 ml). The chloroform solution was then washed with sodium carbonate solution, dried over magnesium sulphate, filtered and evaporated to give an oil. The oil was purified by chromatography using dichloromethane as eluant. The solid obtained was recrystallized from ether/petroleum ether (b.p. 40°-60°) to give the title compound, (1.2 g) m.p. 85°-87°.

reactant | 2,4-Dichlorothieno[2,3-d]pyrimidine | 0.00975 mol, 2 g | ClC=1N=C(C2=C(N1)SC=C2)Cl | C6H2Cl2N2S
reactant | N-methylaniline | 5 ml | CNC1=CC=CC=C1 | C7H9N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-Bis(N-methylphenylamino)thieno(2,3-d)pyrimidine | 1.2 g | CN(C=1N=C(C2=C(N1)SC=C2)N(C)C2=CC=CC=C2)C2=CC=CC=C2 | C20H18N4S
